US04018794
A solution of 4-benzoyl-3-hydroxy-5-nitrobenzoic acid, monohydrate prepared as described in Example 1, step A, (100 g) in dry ethanol (2 liter) is evaporated in vacuo in order to remove the water of crystallization. The residue is redissolved in dry ethanol (2 liter), conc. sulfuric acid (45 ml) is added and the solution is refluxed for 20 hours. The excess of ethanol is removed in vacuo, and the residue is triturated with a saturated sodium hyrogen carbonate solution (about 900 ml). The resulting material is collected by filtration and washed with water. After drying and recrystallization from aqueous ethanol, ethyl 4-benzoyl-3-hydroxy-5-nitrobenzoate is obtained with a melting point of 167°-168° C.

reactant | 4-benzoyl-3-hydroxy-5-nitrobenzoic acid, monohydrate | O.C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])O
reactant | ethanol | 2 liter | C(C)O | C2H6O
product | ethyl 4-benzoyl-3-hydroxy-5-nitrobenzoate | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)OCC)C=C1[N+](=O)[O-])O | C16H13NO6
